*  Sonnet Data File
*  From: emgraph Version : 16.56
*  From Project: Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness
*  Data is De-embedded 
*  Data File Written: 03/24/2020 17:01:58
* < HDATE 03/06/2020 17:23:53
* < MDATE 03/06/2020 17:24:47
* < PARAMS
* < ILD_thickness = 0.6
* < ILD_dielectric_const = 3.7
* < END PARAMS
*  Spice Data
* Limits: C>0.01pF L<100.0nH R<1000.0Ohms K>0.01
    *  Analysis frequencies: 100.0, 110.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_0 1 2 3 4 REF
C_C1 1 REF 1.0860510953137pf
C_C2 1 2 13.261492197858pf
C_C3 1 3 0.0153053424521pf
C_C4 1 4 0.1819735957962pf
C_C5 2 REF 1.244899583168pf
C_C6 2 3 0.0913418277651pf
C_C7 3 REF 0.3112687038602pf
C_C8 3 4 7.7808954748783pf
C_C9 4 REF 0.3093429897233pf
L_L1 3 5 1.3142922373468nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_0

    *  Analysis frequencies: 110.0, 120.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_1 1 2 3 4 REF
C_C1 1 REF 0.8252401096812pf
C_C2 1 2 13.475089500379pf
C_C3 1 3 0.0149365947642pf
C_C4 1 4 0.1831009418471pf
C_C5 2 REF 0.987311524053pf
C_C6 2 3 0.0912276650337pf
C_C7 3 REF 0.3117195852651pf
C_C8 3 4 5.777172661615pf
C_C9 4 REF 0.3088752650522pf
R_R1 1 2 929.24136766701
L_L1 3 5 1.3159476892587nh
R_RL1 5 4 1.6237323393e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_1

    *  Analysis frequencies: 120.0, 130.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_2 1 2 3 4 REF
C_C1 1 REF 0.6435072678268pf
C_C2 1 2 13.666637036344pf
C_C3 1 3 0.0144846934904pf
C_C4 1 4 0.1844744890422pf
C_C5 2 REF 0.8087239497589pf
C_C6 2 3 0.0911694428738pf
C_C7 3 REF 0.3122083389924pf
C_C8 3 4 4.3787411447592pf
C_C9 4 REF 0.3086228026056pf
R_R1 1 2 903.13873798606
L_L1 3 5 1.3173258533114nh
R_RL1 5 4 1.0213730093e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_2

    *  Analysis frequencies: 130.0, 145.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_3 1 2 3 4 REF
C_C1 1 REF 0.4913198312281pf
C_C2 1 2 13.897096523814pf
C_C3 1 3 0.0138133187322pf
C_C4 1 4 0.1865507480683pf
C_C5 2 REF 0.6605565983602pf
C_C6 2 3 0.0912110425487pf
C_C7 3 REF 0.3128224475267pf
C_C8 3 4 3.1760517868621pf
C_C9 4 REF 0.3085128821471pf
R_R1 1 2 887.73556664148
L_L1 3 5 1.3187198107761nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_3

    *  Analysis frequencies: 145.0, 160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_4 1 2 3 4 REF
C_C1 1 REF 0.3767567381114pf
C_C2 1 2 14.177882311151pf
C_C3 1 3 0.0128976434456pf
C_C4 1 4 0.1894891063044pf
C_C5 2 REF 0.5510403137683pf
C_C6 2 3 0.0914502813134pf
C_C7 3 REF 0.3134910894005pf
C_C8 3 4 2.212743810732pf
C_C9 4 REF 0.3085519727357pf
R_R1 1 2 888.93965770427
L_L1 3 5 1.320111777583nh
R_RL1 5 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_4

    *  Analysis frequencies: 160.0, 175.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_5 1 2 3 4 REF
C_C1 1 REF 0.3090678655324pf
C_C2 1 2 14.480940598346pf
C_C3 1 3 0.0118709850088pf
C_C4 1 4 0.1929396170032pf
C_C5 2 REF 0.4888058277275pf
C_C6 2 3 0.0919237077368pf
C_C7 3 REF 0.3140453238161pf
C_C8 3 4 1.5757034498399pf
C_C9 4 REF 0.3086905286668pf
R_R1 1 2 910.5453128862
L_L1 3 5 1.321234722258nh
R_RL1 5 4 -1.071290194e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_5

    *  Analysis frequencies: 175.0, 190.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_6 1 2 3 4 REF
C_C1 1 REF 0.2696497587499pf
C_C2 1 2 14.817070545899pf
C_C3 1 3 0.0107387561235pf
C_C4 1 4 0.1969020300247pf
C_C5 2 REF 0.4553285797893pf
C_C6 2 3 0.0926396192428pf
C_C7 3 REF 0.314469155904pf
C_C8 3 4 1.1395663342241pf
C_C9 4 REF 0.3088665680776pf
R_R1 1 2 954.01614075084
L_L1 3 5 1.3221558410808nh
R_RL1 5 4 -1.635716802e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_6

    *  Analysis frequencies: 190.0, 210.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_7 1 2 3 4 REF
C_C1 1 REF 0.2450562449544pf
C_C2 1 2 15.264275058189pf
C_C3 1 4 0.2022242632639pf
C_C4 2 REF 0.4383999372759pf
C_C5 2 3 0.0937947622157pf
C_C6 3 REF 0.3148038307408pf
C_C7 3 4 0.7916794727087pf
C_C8 4 REF 0.3090729037484pf
L_L1 3 5 1.3230230784269nh
R_RL1 5 4 -2.168963764e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_7

    *  Analysis frequencies: 210.0, 230.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_8 1 2 3 4 REF
C_C1 1 REF 0.2322140210095pf
C_C2 1 2 15.850675062721pf
C_C3 1 4 0.2091671077557pf
C_C4 2 REF 0.4352390751584pf
C_C5 2 3 0.095502495971pf
C_C6 3 REF 0.3150135419931pf
C_C7 3 4 0.5238170055593pf
C_C8 4 REF 0.3092756847105pf
L_L1 3 5 1.3238398099641nh
R_RL1 5 4 -2.642566227e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_8

    *  Analysis frequencies: 230.0, 255.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_9 1 2 3 4 REF
C_C1 1 REF 0.2278455808195pf
C_C2 1 2 16.631365928665pf
C_C3 1 4 0.218281311558pf
C_C4 2 REF 0.4432171215391pf
C_C5 2 3 0.0979612973729pf
C_C6 3 REF 0.315078400381pf
C_C7 3 4 0.3263030145936pf
C_C8 4 REF 0.309445379225pf
L_L1 3 5 1.3245630114946nh
R_RL1 5 4 -2.989983648e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_9

    *  Analysis frequencies: 255.0, 280.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_10 1 2 3 4 REF
C_C1 1 REF 0.2278529615308pf
C_C2 1 2 17.659543210481pf
C_C3 1 4 0.2300789471796pf
C_C4 2 REF 0.4588255067631pf
C_C5 2 3 0.1013503307141pf
C_C6 3 REF 0.3150127696462pf
C_C7 3 4 0.1831192625217pf
C_C8 4 REF 0.3095649304684pf
L_L1 3 5 1.3252080475645nh
R_RL1 5 4 -3.179852786e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_10

    *  Analysis frequencies: 280.0, 310.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_11 1 2 3 4 REF
C_C1 1 REF 0.2288080051096pf
C_C2 1 2 19.039902825827pf
C_C3 1 4 0.2456280276469pf
C_C4 2 REF 0.4799136877682pf
C_C5 2 3 0.1060292376282pf
C_C6 3 REF 0.3148379631964pf
C_C7 3 4 0.082212894668pf
C_C8 4 REF 0.3096306256586pf
L_L1 1 5 87.016722755261nh
R_RL1 5 2 17.049995763735
L_L2 3 6 1.3257379141622nh
R_RL2 6 4 -3.166605347e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_11

    *  Analysis frequencies: 310.0, 340.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_12 1 2 3 4 REF
C_C1 1 REF 0.2275973213478pf
C_C2 1 2 20.893404548981pf
C_C3 1 4 0.2661656357224pf
C_C4 2 REF 0.5048592954855pf
C_C5 2 3 0.1124149869478pf
C_C6 3 REF 0.3145878321658pf
C_C7 3 4 0.0117128552023pf
C_C8 4 REF 0.3096570316507pf
L_L1 1 5 53.462023723764nh
R_RL1 5 2 11.512446542135
L_L2 3 6 1.326158742718nh
R_RL2 6 4 -2.934237273e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_12

    *  Analysis frequencies: 340.0, 375.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_13 1 2 3 4 REF
C_C1 1 REF 0.2211578562221pf
C_C2 1 2 23.462976824163pf
C_C3 1 4 0.2942337096774pf
C_C4 2 REF 0.533706721898pf
C_C5 2 3 0.121360987378pf
C_C6 3 REF 0.3142852389273pf
C_C7 4 REF 0.3096711671087pf
L_L1 1 5 32.55245620873nh
R_RL1 5 2 7.2715930537488
L_L2 3 6 1.326100785059nh
R_RL2 6 4 -2.473938821e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_13

    *  Analysis frequencies: 375.0, 410.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_14 1 2 3 4 REF
C_C1 1 REF 0.2063237126865pf
C_C2 1 2 27.093479383607pf
C_C3 1 4 0.333465128789pf
C_C4 2 REF 0.5677564515522pf
C_C5 2 3 0.134084805345pf
C_C6 3 REF 0.31394567548pf
C_C7 4 REF 0.3097143042085pf
R_R1 1 2 -587.3224376144
L_L1 1 5 19.431955265833nh
R_RL1 5 2 4.5234884507754
L_L2 3 6 1.3258176377218nh
R_RL2 6 4 -1.799774327e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_14

    *  Analysis frequencies: 410.0, 450.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_15 1 2 3 4 REF
C_C1 1 REF 0.1778636798615pf
C_C2 1 2 32.520408495707pf
C_C3 1 4 0.3916564319225pf
C_C4 2 REF 0.6113851333094pf
C_C5 2 3 0.1531882216666pf
C_C6 3 REF 0.3135630324723pf
C_C7 4 REF 0.3098498296586pf
R_R1 1 2 -387.4398940858
L_L1 1 5 11.297767261411nh
R_RL1 5 2 3.4294434877775
L_L2 3 6 1.3253264084467nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_15

    *  Analysis frequencies: 450.0, 495.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_16 1 2 3 4 REF
C_C1 1 REF 0.1224184049831pf
C_C2 1 2 41.819268276472pf
C_C3 1 4 0.4908906463451pf
C_C4 2 REF 0.6784881525766pf
C_C5 2 3 0.1860057358034pf
C_C6 3 REF 0.3130763591314pf
C_C7 4 REF 0.3102150781325pf
R_R1 1 2 -270.7326877475
L_L1 1 5 6.7453997099178nh
R_RL1 5 2 1.8866695336073
L_L2 3 6 1.3244654681577nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_16

    *  Analysis frequencies: 495.0, 545.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_17 1 2 3 4 REF
C_C1 1 2 59.953421104956pf
C_C2 1 4 0.6839667490213pf
C_C3 2 REF 0.8015758767516pf
C_C4 2 3 0.2500761219846pf
C_C5 3 REF 0.3123662750796pf
C_C6 4 REF 0.3111576482688pf
R_R1 1 2 -204.9419791996
L_L1 1 5 3.2571893007011nh
R_RL1 5 2 0.0315666085899
L_L2 3 6 1.3228157977298nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_17

    *  Analysis frequencies: 545.0, 600.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_18 1 2 3 4 REF
C_C1 1 2 104.60712348612pf
C_C2 1 4 1.1591700011264pf
C_C3 2 REF 1.0972257731283pf
C_C4 2 3 0.4078491749567pf
C_C5 3 REF 0.3110079206256pf
C_C6 4 REF 0.3139065989977pf
R_R1 1 2 -233.8841115164
L_L1 1 5 1.1595311444624nh
R_RL1 5 2 0.0386278722347
L_L2 1 6 53.152766143023nh
R_RL2 6 3 0.0249975690837
L_L3 1 7 52.420253636773nh
R_RL3 7 4 0.025396816738
L_L4 2 8 53.25305703356nh
R_RL4 8 3 0.0018868066579
L_L5 2 9 52.523721590347nh
R_RL5 9 4 0.001982453002
L_L6 3 10 1.3188576232327nh
R_RL6 10 4 1.4799288934e-5
Kn_K1 L_L1 L_L2 0.0674621746614
Kn_K2 L_L1 L_L3 0.0677281389086
Kn_K3 L_L1 L_L4 -0.080161479382
Kn_K4 L_L1 L_L5 -0.080919667651
Kn_K5 L_L2 L_L3 0.9875313973871
Kn_K6 L_L2 L_L4 0.989103186638
Kn_K7 L_L2 L_L5 0.9765346332916
Kn_K8 L_L2 L_L6 -0.122504527433
Kn_K9 L_L3 L_L4 0.976607084838
Kn_K10 L_L3 L_L5 0.9889514314743
Kn_K11 L_L3 L_L6 0.0352593905303
Kn_K12 L_L4 L_L5 0.9875551656754
Kn_K13 L_L4 L_L6 -0.122199567005
Kn_K14 L_L5 L_L6 0.0354155060304
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_18

    *  Analysis frequencies: 600.0, 660.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_19 1 2 3 4 REF
C_C1 1 2 292.0887665528pf
C_C2 1 4 3.1552325717673pf
C_C3 2 REF 2.3308737173635pf
C_C4 2 3 1.069985595967pf
C_C5 3 REF 0.3062773835127pf
C_C6 4 REF 0.3265887029495pf
R_R1 1 2 32.284139919601
L_L1 1 5 38.078308214427nh
R_RL1 5 REF -0.769967881537
L_L2 1 6 0.2819337434393nh
R_RL2 6 2 -0.037292531577
L_L3 1 7 15.287969064285nh
R_RL3 7 3 -0.020566796893
L_L4 1 8 14.606327387754nh
R_RL4 8 4 -0.021443240791
L_L5 2 9 37.861116508993nh
R_RL5 9 REF -0.800388181612
L_L6 2 10 15.343698108701nh
R_RL6 10 3 -2.503701914e-3
L_L7 2 11 14.666349357097nh
R_RL7 11 4 -2.099439228e-3
L_L8 3 12 53.035332595031nh
R_RL8 12 REF -0.767122082738
L_L9 3 13 1.3024233385917nh
R_RL9 13 4 1.0e-5
L_L10 4 14 52.344670466479nh
R_RL10 14 REF -0.767823925794
Kn_K1 L_L1 L_L2 0.0761670905793
Kn_K2 L_L1 L_L5 0.9962914611948
Kn_K3 L_L1 L_L8 0.8436548353775
Kn_K4 L_L1 L_L10 0.8491013771797
Kn_K5 L_L2 L_L3 0.0544782565107
Kn_K6 L_L2 L_L4 0.0546772049231
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.081173571521
Kn_K9 L_L2 L_L7 -0.084082443873
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L10 1.0
Kn_K12 L_L3 L_L4 0.9566811109398
Kn_K13 L_L3 L_L5 1.0
Kn_K14 L_L3 L_L6 0.9907976437059
Kn_K15 L_L3 L_L7 0.9471682150719
Kn_K16 L_L3 L_L8 1.0
Kn_K17 L_L3 L_L9 -0.222318150625
Kn_K18 L_L3 L_L10 1.0
Kn_K19 L_L4 L_L5 1.0
Kn_K20 L_L4 L_L6 0.9475305263293
Kn_K21 L_L4 L_L7 0.9903707883449
Kn_K22 L_L4 L_L8 1.0
Kn_K23 L_L4 L_L9 0.0711643166394
Kn_K24 L_L4 L_L10 1.0
Kn_K25 L_L5 L_L8 0.843025923823
Kn_K26 L_L5 L_L10 0.8484198248757
Kn_K27 L_L6 L_L7 0.9568441813293
Kn_K28 L_L6 L_L8 1.0
Kn_K29 L_L6 L_L9 -0.221433892478
Kn_K30 L_L6 L_L10 1.0
Kn_K31 L_L7 L_L8 1.0
Kn_K32 L_L7 L_L9 0.0715096659166
Kn_K33 L_L7 L_L10 1.0
Kn_K34 L_L8 L_L9 0.1199049724022
Kn_K35 L_L8 L_L10 0.9876619102612
Kn_K36 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_19

    *  Analysis frequencies: 660.0, 725.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_20 1 2 3 4 REF
C_C1 1 REF 19.409494945659pf
C_C2 1 3 10.266437854062pf
C_C3 2 4 30.811774372732pf
C_C4 3 REF 0.3797014561981pf
C_C5 4 REF 0.1032298429824pf
R_R1 1 REF -54.91415530703
R_R2 1 2 0.3626791372247
R_R3 1 3 -103.2867942199
R_R4 1 4 34.062583663509
R_R5 2 REF 54.839346072553
R_R6 2 3 103.3354655402
R_R7 2 4 -34.08116498821
L_L1 1 5 2.6088588696605nh
R_RL1 5 REF -3.932528254e-3
L_L2 1 6 0.0471168331607nh
R_RL2 6 2 -0.250292462071
L_L3 1 7 1.8097398988223nh
R_RL3 7 3 -0.097186861346
L_L4 1 8 1.266738926142nh
R_RL4 8 4 -0.159989050716
L_L5 2 9 2.6244201024189nh
R_RL5 9 REF -0.269834652866
L_L6 2 10 1.8063476290343nh
R_RL6 10 3 -0.035549026018
L_L7 2 11 1.2583252363154nh
R_RL7 11 4 -0.010057344287
L_L8 3 12 4.4074721271615nh
R_RL8 12 REF -0.110736653536
L_L9 3 13 1.0927038899513nh
R_RL9 13 4 -7.775340416e-3
L_L10 4 14 3.8704698567301nh
R_RL10 14 REF -0.17630346654
Kn_K1 L_L1 L_L2 0.0450021344504
Kn_K2 L_L1 L_L5 0.9910010710722
Kn_K3 L_L1 L_L8 0.7677209563632
Kn_K4 L_L1 L_L10 0.8201936762387
Kn_K5 L_L2 L_L3 0.086485546241
Kn_K6 L_L2 L_L4 0.1136501893058
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.074938806594
Kn_K9 L_L2 L_L7 -0.079475220763
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 0.0110651489582
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.6551047737843
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9869706520164
Kn_K16 L_L3 L_L7 0.6405559148502
Kn_K17 L_L3 L_L8 0.9217658368511
Kn_K18 L_L3 L_L9 -0.581588250174
Kn_K19 L_L3 L_L10 0.9847673221525
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.6373644860639
Kn_K22 L_L4 L_L7 0.9813457900168
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2336163548852
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7682279398694
Kn_K27 L_L5 L_L10 0.8215196530321
Kn_K28 L_L6 L_L7 0.6539927928093
Kn_K29 L_L6 L_L8 0.9259896003942
Kn_K30 L_L6 L_L9 -0.583921179845
Kn_K31 L_L6 L_L10 0.9902251867543
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2322549233838
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3713071222262
Kn_K36 L_L8 L_L10 0.8698303081729
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_20

    *  Analysis frequencies: 725.0, 795.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_21 1 2 3 4 REF
C_C1 1 2 1777.511679327pf
C_C2 1 4 18.981628726109pf
C_C3 2 REF 12.102863682727pf
C_C4 2 3 6.3176673556103pf
C_C5 3 REF 0.270721690345pf
C_C6 4 REF 0.4294991677762pf
R_R1 1 REF 66.345649990161
R_R2 1 2 -0.438504788678
R_R3 1 3 124.69225723936
R_R4 1 4 -41.17737812252
R_R5 2 REF -66.48200319455
R_R6 2 3 -124.7645644622
R_R7 2 4 41.198310614485
L_L1 1 5 3.5477021729209nh
R_RL1 5 REF -3.9128641e-3
L_L2 1 6 0.0205993683107nh
R_RL2 6 2 0.02542037056
L_L3 1 7 2.2480208592481nh
R_RL3 7 3 0.0108608550533
L_L4 1 8 1.6618649221526nh
R_RL4 8 4 0.0157615083754
L_L5 2 9 3.5219514773086nh
R_RL5 9 REF 0.0218333083916
L_L6 2 10 2.2552969283888nh
R_RL6 10 3 0.0030447878699
L_L7 2 11 1.6756893155394nh
R_RL7 11 4 0.0011505038784
L_L8 3 12 5.7665042945047nh
R_RL8 12 REF 0.0073226251192
L_L9 3 13 1.1465204375041nh
R_RL9 13 4 4.6209767694e-4
L_L10 4 14 5.173979691952nh
R_RL10 14 REF 0.012269071653
Kn_K1 L_L1 L_L2 0.0857274317948
Kn_K2 L_L1 L_L5 0.9970928410358
Kn_K3 L_L1 L_L8 0.7811333108255
Kn_K4 L_L1 L_L10 0.8239057003923
Kn_K5 L_L2 L_L3 0.0309567004337
Kn_K6 L_L2 L_L4 0.018308505066
Kn_K7 L_L2 L_L5 1.0
Kn_K8 L_L2 L_L6 -0.064664046827
Kn_K9 L_L2 L_L7 -0.092641297572
Kn_K10 L_L2 L_L8 1.0
Kn_K11 L_L2 L_L9 -0.021305038746
Kn_K12 L_L2 L_L10 1.0
Kn_K13 L_L3 L_L4 0.7148423636308
Kn_K14 L_L3 L_L5 1.0
Kn_K15 L_L3 L_L6 0.9954270344359
Kn_K16 L_L3 L_L7 0.7084552441896
Kn_K17 L_L3 L_L8 0.9812926975584
Kn_K18 L_L3 L_L9 -0.539630377328
Kn_K19 L_L3 L_L10 1.0
Kn_K20 L_L4 L_L5 1.0
Kn_K21 L_L4 L_L6 0.7119385571406
Kn_K22 L_L4 L_L7 0.9938365304755
Kn_K23 L_L4 L_L8 1.0
Kn_K24 L_L4 L_L9 0.2029793502606
Kn_K25 L_L4 L_L10 1.0
Kn_K26 L_L5 L_L8 0.7803194575144
Kn_K27 L_L5 L_L10 0.8222767951384
Kn_K28 L_L6 L_L7 0.7161653072483
Kn_K29 L_L6 L_L8 0.9751294128371
Kn_K30 L_L6 L_L9 -0.536723053762
Kn_K31 L_L6 L_L10 1.0
Kn_K32 L_L7 L_L8 1.0
Kn_K33 L_L7 L_L9 0.2045025065188
Kn_K34 L_L7 L_L10 1.0
Kn_K35 L_L8 L_L9 0.3381688683254
Kn_K36 L_L8 L_L10 0.8965196602812
Kn_K37 L_L9 L_L10 1.0
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_21

    *  Analysis frequencies: 795.0, 875.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_22 1 2 3 4 REF
C_C1 1 2 109.37148632149pf
C_C2 1 4 1.2043461067907pf
C_C3 2 REF 1.131598600006pf
C_C4 2 3 0.4258871226994pf
C_C5 3 REF 0.3087676208397pf
C_C6 4 REF 0.3117217365706pf
R_R1 1 2 -25.87896308085
L_L1 1 5 0.2506486623643nh
R_RL1 5 2 0.0757445418372
L_L2 1 6 24.261815961467nh
R_RL2 6 3 0.0456068249261
L_L3 1 7 23.534835580722nh
R_RL3 7 4 0.0466530534276
L_L4 2 8 24.453230976606nh
R_RL4 8 3 0.0034128095659
L_L5 2 9 23.734676316277nh
R_RL5 9 4 0.0030518422656
L_L6 3 10 1.3082709172212nh
R_RL6 10 4 1.0e-5
Kn_K1 L_L1 L_L2 0.0120100310774
Kn_K2 L_L1 L_L3 0.0104595547733
Kn_K3 L_L1 L_L4 -0.08927996594
Kn_K4 L_L1 L_L5 -0.092348580985
Kn_K5 L_L2 L_L3 0.9727409214938
Kn_K6 L_L2 L_L4 0.9948624799283
Kn_K7 L_L2 L_L5 0.9674029341212
Kn_K8 L_L2 L_L6 -0.180624870658
Kn_K9 L_L3 L_L4 0.9678672750593
Kn_K10 L_L3 L_L5 0.9947063454954
Kn_K11 L_L3 L_L6 0.0523791961432
Kn_K12 L_L4 L_L5 0.9729588147471
Kn_K13 L_L4 L_L6 -0.179171699017
Kn_K14 L_L5 L_L6 0.0529142450627
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_22

    *  Analysis frequencies: 875.0, 960.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_23 1 2 3 4 REF
C_C1 1 REF 0.206118611622pf
C_C2 1 2 33.511403893771pf
C_C3 1 4 0.3955027607795pf
C_C4 2 REF 0.6375504058352pf
C_C5 2 3 0.1574990392796pf
C_C6 3 REF 0.3096069468012pf
C_C7 4 REF 0.30537029712pf
R_R1 1 2 -105.5497619305
L_L1 1 5 0.635699428006nh
R_RL1 5 2 0.1773890154927
L_L2 1 6 85.535588375121nh
R_RL2 6 3 0.1616173284729
L_L3 1 7 84.588873974639nh
R_RL3 7 4 0.1591292851076
L_L4 2 8 86.534480313147nh
R_RL4 8 3 0.2515322407271
L_L5 2 9 85.595886597718nh
R_RL5 9 4 0.2472137078958
L_L6 3 10 1.317089228888nh
R_RL6 10 4 -1.139428286e-5
Kn_K1 L_L1 L_L2 -0.024626775657
Kn_K2 L_L1 L_L3 -0.025317910181
Kn_K3 L_L1 L_L4 -0.110194190715
Kn_K4 L_L1 L_L5 -0.111347145991
Kn_K5 L_L2 L_L3 0.9922734485731
Kn_K6 L_L2 L_L4 0.9963223661483
Kn_K7 L_L2 L_L5 0.9885415652443
Kn_K8 L_L2 L_L6 -0.106641865483
Kn_K9 L_L3 L_L4 0.9886997761602
Kn_K10 L_L3 L_L5 0.9962820928092
Kn_K11 L_L3 L_L6 0.017544752523
Kn_K12 L_L4 L_L5 0.9923630571926
Kn_K13 L_L4 L_L6 -0.105644250449
Kn_K14 L_L5 L_L6 0.0178236519874
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_23

    *  Analysis frequencies: 960.0, 1055.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_24 1 2 3 4 REF
C_C1 1 REF 0.3335646750457pf
C_C2 1 2 14.907099866888pf
C_C3 1 3 0.0248544670256pf
C_C4 1 4 0.1979293796602pf
C_C5 2 REF 0.5232541942941pf
C_C6 2 3 0.0904548631187pf
C_C7 3 REF 0.3089093069782pf
C_C8 4 REF 0.302821368686pf
R_R1 1 2 -392.3468915822
L_L1 1 5 1.0017493261843nh
R_RL1 5 2 0.1304503166963
L_L2 3 6 1.3176434048043nh
R_RL2 6 4 -1.292695936e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_24

    *  Analysis frequencies: 1055.0, 1160.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_25 1 2 3 4 REF
C_C1 1 REF 0.3843238105547pf
C_C2 1 2 8.0873109259656pf
C_C3 1 3 0.0538429066846pf
C_C4 1 4 0.1257684334772pf
C_C5 2 REF 0.4880381572397pf
C_C6 2 3 0.0643416855172pf
C_C7 3 REF 0.3076707696457pf
C_C8 4 REF 0.3007905084892pf
L_L1 1 5 1.6085141924301nh
R_RL1 5 2 1.3649609771e-4
L_L2 3 6 1.3155034914117nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_25

    *  Analysis frequencies: 1160.0, 1200.0 MHz
.subckt Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_26 1 2 3 4 REF
C_C1 1 REF 0.40352414584pf
C_C2 1 2 6.0754115077632pf
C_C3 1 3 0.0647622090381pf
C_C4 1 4 0.1032152021719pf
C_C5 2 REF 0.4808559915482pf
C_C6 2 3 0.0557125469033pf
C_C7 2 4 0.0264306260047pf
C_C8 3 REF 0.3065891146002pf
C_C9 4 REF 0.2993757042409pf
L_L1 1 5 1.7676052533735nh
R_RL1 5 2 1.1962564623e-4
L_L2 3 6 1.314567822161nh
R_RL2 6 4 1.0e-5
.ends Cap_300MHz_with_boundary_and_coupcaps_variableILDthickness_param58_26

